US06784192B2
5-(4-Pyridinyl)-2-methoxy-3-pyridinecarboxaldehyde
321 mg of 5-(4-pyridinyl)-2-methoxy-3-pyridinemethanol was dissolved in 10 ml of chloroform, 1.6 g of manganese dioxide was added thereto, and the mixture was stirred at room temperature for 14 hours. After filtering through Celite, the filtrate was evaporated. The crude product was purified by silica gel chromatography (toluene:ethyl acetate=3:1), to give 329 mg of the title compound as a white powder.

reactant | 5-(4-pyridinyl)-2-methoxy-3-pyridinemethanol | 321 mg | N1=CC=C(C=C1)C=1C=C(C(=NC1)OC)CO | C12H12N2O2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 1.6 g | [O-2].[O-2].[Mn+4]
product | 5-(4-Pyridinyl)-2-methoxy-3-pyridinecarboxaldehyde | 329 mg | N1=CC=C(C=C1)C=1C=C(C(=NC1)OC)C=O | C12H10N2O2
